US04230714
A solution of 2-(imidazol-1-ylmethyl)-3-hydroxypyridine (3.0 g.) in dry N,N-dimethylformamide (40 ml.) was treated with sodium hydride (0.90 g., 50% suspension in mineral oil) at 0° C., while under a dry nitrogen atmosphere and the resulting suspension was stirred at 0° C. for a period of 30 minutes. Benzyl bromide (2.90 g.) was then added dropwise to the stirred solution and stirring of same was continued for a further hour at 0° C., followed by stirring at room temperature (~25° C.) for a period of two hours. At this point, water (10 ml.) was added to the mixture and the resulting aqueous solution was evaporated to dryness while under reduced pressure. The residue was taken up in chloroform and the inorganic material which remained was subsequently removed by means of filtration. The filtrate so obtained was then concentrated in vacuo and the residue subsequently chromatographed on silica gel. The resulting column was then eluted first with petroleum ether (b.p. 60°-80° C.) to remove the mineral oil and then with chloroform to remove the product. Evaporation of the chloroform solution then gave an oil, which subsequently crystallized on cooling. The latter material was then recrystallized from ethyl acetate/petroleum ether (b.p. 60°-80° C.) to afford pure 2-(imidazol-1-ylmethyl)-3-benzyloxypyridine (yield, 1.5 g.), m.p. 73°-74° C.

reactant | 2-(imidazol-1-ylmethyl)-3-hydroxypyridine | 3.0 g | N1(C=NC=C1)CC1=NC=CC=C1O | C9H9N3O
reactant | sodium hydride | 0.90 g | [H-].[Na+]
reactant | Benzyl bromide | 2.90 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-(imidazol-1-ylmethyl)-3-benzyloxypyridine | 1.5 g | N1(C=NC=C1)CC1=NC=CC=C1OCC1=CC=CC=C1 | C16H15N3O
